* Lab1: Circuit analysis methods
.options savecurrents


* C O M P O N E N T S

* Independent voltage sources (please introduce the value in V)
Va 1 4 5.040990939839293
Vfalsa 4 8 0.0

* Linear Current-Controlled Voltage Source (please introduce the value in V)
Hc 5 0 Vfalsa 8.078580599523491

* Independent current source (please introduce the value in mA)
Id 0 6 1.0179673375046598

* Linear Voltage-Controlled Current Source (please introduce the value in mA)
Gb 6 3 2 5 7.208307865585887

* Resistors (please introduce the values in kOhm)
R1 1 2 1.0240888586490353
R2 3 2 2.077743916695854
R3 2 5 3.085823508104019
R4 5 4 4.1834915928511425
R5 5 6 3.094732956849807
R6 8 7 2.048970926825776
R7 7 0 1.0225774446662013


* V A L U E   P R I N T I N G

.control

op

echo ""
echo ""
echo "************************************************"
echo "O P E R A T I N G   P O I N T   A N A L Y S I S"
echo "************************************************"
echo ""

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc


.end
