* Lab2: RC circuit analysis
.options savecurrents


* C O M P O N E N T S


* input AC 230V voltage source
vS 1 14 0 sin(0 230 50)


* TRANSFORMER
* linear current-controlled current source
F1 1 14 E1 102.29
* resistance para evitar loop
R2 1 14 0.1
* resistance para unir circuitos
*R4 14 3 100000000000000
******************************************
* linear voltage-controlled voltage source
E1 15 3 1 14 102.29


* diode
Dp1 15 6 Default
Dp2 0 15 Default
Dp3 0 3 Default
Dp4 3 6 Default

* resistance
*R1 6 0 100000
*R3 7 13 1000

* capacitor
C 6 0 600u



* limiter
R3 6 8 600k


Dp5 8 9 Default
Dp6 9 11 Default
Dp7 11 12 Default
Dp8 12 13 Default
Dp9 13 14 Default
Dp10 14 30 Default
Dp11 30 16 Default
Dp12 16 17 Default
Dp13 17 18 Default
Dp14 18 19 Default
Dp15 19 20 Default
Dp16 20 21 Default
Dp17 21 22 Default
Dp18 22 23 Default
Dp19 23 24 Default
Dp20 24 0 Default
*Dp21 25 26 Default
*Dp22 26 27 Default
*Dp23 27 28 Default
*Dp24 28 0 Default

* díodos ao contrário

*V0n5 5 12 3
*Dp5 12 11 Default
*V0n6 11 10 3
*Dp6 10 9 Default
*V0n7 9 8 3
*Dp7 8 7 Default


* díodos sem Von

*Dp5 7 9 Default
*Dp6 9 11 Default
*Dp7 11 0 Default



.model Default D


.op

*.ic v(6)=1000

.end

.control



* A N A L Y S I S
tran 1e-5 114.97ms 14.97ms
*plot v(6)
*plot v(8,9)
plot v(8)-12  
*plot v(15,3)
*plot v(6)
*plot v(1,14)
*plot v(15,3)

hardcopy output.ps v(8)-12 ylimit -0.0001 0.0001 xlimit 5ms 0.10497
echo output_FIG
hardcopy output2.ps v(6)
echo output2_FIG
hardcopy todos.ps v(8) v(8)-12 ylimit 0 15
echo todos_FIG

*valores

*meas tran ymax MAX v(8) from=0ms to=10ms

meas tran ymax MAX v(8) from=15ms to=30ms
meas tran ymax2 MAX v(8) from=40ms to=50ms


meas tran ymin MIN v(8) from=10ms to=20ms

let ripple  = 'ymax - ymin'

meas tran yavg AVG v(8) from=25.02ms to=45.02ms



let merit = '1/(1201.6*(ripple+(yavg-12)+10^(-6)))'


*médias 

meas tran yavg AVG v(8) from=25.02ms to=45.02ms
*meas tran yavg AVG v(6) from=14.96595ms to=44.96595ms
*meas tran yavg AVG v(24) from=25.02ms to=45.02ms


echo  "op_TAB"
print ymax
print ymin
print yavg
print ripple
print merit 
echo  "op_END"



.endc





