t5

*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



.options savecurrents

* C I R C U I T   C O M P O N E N T S

*s u p p l y   v o l t a g e s
Vcc vcc 0 5
Vee vee 0 -5

*i n p u t   v o l t a g e
Vin in 0 0 ac 1.0 sin(0 10m 1k)

*o p - a m p
X1 n_inv inv vcc vee out uA741

*n o n - i n v e r t i n g   i n p u t
C1 in n_inv 220n
*1, 1, 1, 220 em série
R1 n_inv 0 1000

*i n v e r t i n g   i n p u t 
R4 inv 0 1000

*f e e d b a c k
R3 inv out 130000
*2 de 1000 em paralelo

*o u t
R2 out vo 1000
C2 vo 0 110n



.op
.end

* -------------------------------------------------------------------------------
* A N A L Y S I S
.control



*op

* o p e r a t i n g   p o i n t

*let VBE1 = base - emit
*let VCE1 = coll - emit
*let VEB2 = emit2 - coll
*let VEC2 = emit2


*echo "op_TAB"
*print all
*print @q1[ib]
*print @q1[ie]
*print @q1[ic]
*print @q2[ib]
*print @q2[ie]
*print @q2[ic]
*echo "op_END"



* t r a n s i e n t   a n a l y s i s

tran 1e-5 1e-2

*plot v(in)
*plot v(out)

*hardcopy vint.ps v(in) 
*echo vint_FIG
*hardcopy vint.ps v(out) 
*echo voutt_FIG

*plot v(coll)
*hardcopy vcollt.ps v(coll) 
*echo vcollt_FIG


* f r e q u e n c y   a n a l y s i s

ac dec 10 10 100MEG

*plot vdb(vo)


hardcopy vdbf.ps db(v(vo))
echo vdbf_FIG
let phg(vo) = vp(vo)*180/pi
hardcopy vphvof.ps phg(vo)
echo vphvof_FIG

*print v(in)[40]/R1[i]/1000

* -------------------------------------------------------------------------------
* I N P U T   I M P E D A N C             E

let Zin = (-1)*v(in)[20]/vin#branch[20]
let Zinabs = abs((-1)*v(in)[20]/vin#branch[20])

echo "Zin_TAB"
print Zin
print Zinabs
echo "Zin_END"

*plot abs(v(in)/vin#branch/(-1))
*print ((-1)*v(in)/vin#branch)
*plot abs(v(in2)[40]/vin#branch[40]/(-1000))
*print (-1)*v(in2)[30]/vin#branch[30]



* -------------------------------------------------------------------------------
* M E R I T


* g a i n   d e v i a t i o n 

*meas ac gain MAX v(vo) from=10 to=100MEG
meas ac gain FIND v(vo) AT=1000

*let abs_in = abs(v(in))
*meas ac max_in MAX abs_in from=10 to=100MEG

let gaindeviation = abs(gain-100)



* c u t - o f f   f r e q u e n c i e s   +   c e n t r a l   f r e q u e n c y  

meas ac gaindb MAX vdb(vo) from=10 to=100MEG

let gaindb_cutoff  = gaindb-3

meas ac cutofflow WHEN vdb(vo) = gaindb_cutoff
meas ac cutoffhigh WHEN vdb(vo) = gaindb_cutoff FALL = LAST

let centralfreq = sqrt(cutoffhigh*cutofflow)

let centralfreqdeviation = abs(centralfreq-1000)

*c os t

let cost= 13323.29204+ ( 0.220+1)+(1)   + (100+ 10+10+10)+ (1+ 0.220+0.220)


* m e r i 

let merit = 1/(cost*(gaindeviation + centralfreqdeviation + 0.000001))


* t ab l           e

echo "merit_TAB"
print gaindb
print gaindeviation
print cutofflow
print cutoffhigh
print centralfreq
print centralfreqdeviation
print cost
print merit
echo "merit_END"



.endc





