t5

*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



.options savecurrents

* C I R C U I T   C O M P O N E N T S

*s u p p l y   v o l t a g e s
Vcc vcc 0 5
Vee vee 0 -5

*i n p u t   v o l t a g e
Vin in 0 0 

*o p - a m p
X1 n_inv inv vcc vee out uA741

*n o n - i n v e r t i n g   i n p u t
C1 in n_inv 220n
*1, 1, 1, 220 em série
R1 n_inv 0 1000

*i n v e r t i n g   i n p u t 
R4 inv 0 1000

*f e e d b a c k
R3 inv out 130000
*2 de 1000 em paralelo

*o u t
R2 out vo 1000
C2 vo 0 110n
Vteste vo 0 0 ac 1.0 sin(0 1 1k)



.op
.end

* -------------------------------------------------------------------------------
* A N A L Y S I S
.control




* f r e q u e n c y   a n a l y s i s

ac dec 10 10 100MEG


* -------------------------------------------------------------------------------
* O U T P U T   I M P E  A N C E

let Zout = (-1)*v(vo)[20]/Vteste#branch[20]
let Zoutabs = abs((-1)*v(vo)[20]/Vteste#branch[20])


echo "Zout_TAB"
print Zout
print Zoutabs
echo "Zout_END"

.endc